US04665179
3-[2-(2-aminoethyl)amino-5-nitrophenylsulphonyl]-propionic acid
29.5 g of 3-(2-chloro-5-nitro-5-nitrophenylsulphonyl)propionic acid and 15 g of 1,2-diaminoethane are refluxed in 150 ml of isopropanol for two hours. The reaction mixture is cooled down to 0° C. and filtered with suction. The isolation is suspended in 100 ml of water, the suspension is brought to pH 3.5, and 15 g of sodium chloride are added for salting out. The precipitated betaine is filtered off with suction and dried. The yield of 3-[2-(-aminoethyl)amino-5-nitrophenylsulphonyl]-propionic acid is 28.5 g.

reactant | 3-(2-chloro-5-nitro-5-nitrophenylsulphonyl)propionic acid | 29.5 g | ClC=1C(=CC(CC1)([N+](=O)[O-])[N+](=O)[O-])S(=O)(=O)CCC(=O)O | C9H9ClN2O8S
reactant | 1,2-diaminoethane | 15 g | NCCN | C2H8N2
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | 3-[2-(2-aminoethyl)amino-5-nitrophenylsulphonyl]-propionic acid | NCCNC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)CCC(=O)O | C11H15N3O6S
